US08536168B2
N-{2-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyrimidin-5-yl}-acetamide
Following the above procedure, 2-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyrimidin-5-ylamine (60 mg, 0.15 mmol) and acetic anhydride (22.2 μL, 0.235 mmol) afford the title compound (21 mg, 31%).

reactant | 2-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyrimidin-5-ylamine | 0.15 mmol, 60 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=N1)N | C23H23N7
reactant | acetic anhydride | 0.235 mmol, 22.2 μL | C(C)(=O)OC(C)=O | C4H6O3
product | N-{2-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyrimidin-5-yl}-acetamide | 21 mg, 31% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=N1)NC(C)=O | C25H25N7O
